US07897762B2
A mixture of (6-chloro-4-(methylamino)pyridin-3-yl)methanol (2.9 g, 16.7 mmol) and MnO2 (11.7 g, 133.6 mmol) in anhydrous DCM (25 mL) was stirred at 30° C. for 6 h. The reaction mixture was cooled to RT, filtered and concentrated in vacuo to give 6-chloro-4-(methylamino)nicotinaldehyde (2.5 g, 87% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.83 (s, 1H), 8.52 (br s, 1 H), 8.40 (s, 1 H), 6.75 (s, 1 H), 2.87 (d, J=5.8 Hz, 3 H); MS (ESI) m/z: 171.0 [M+H]+.

reactant | (6-chloro-4-(methylamino)pyridin-3-yl)methanol | 16.7 mmol, 2.9 g | ClC1=CC(=C(C=N1)CO)NC | C7H9ClN2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 133.6 mmol, 11.7 g | O=[Mn]=O
product | 6-chloro-4-(methylamino)nicotinaldehyde | 2.5 g, 87% yield | ClC1=NC=C(C=O)C(=C1)NC | C7H7ClN2O
